US07301027B2
A 0.5 M solution of 3-bromo-3-(2-bromophenyl)-2-isocyano-acrylic acid ethyl ester (2.55 g; 7.11 mM) and triethylamine (990 μl; 7.11 mM) in dimethylformamide (DMF) is added drop by drop at room temperature with isobutylamine (850 μl; 8.53 mM). The reaction mixture is kept at room temperature until complete reaction, then is quenched with a NaHCO3 saturated solution, extracted with ethyl acetate, washed with water, dried over Na2SO4, and evaporated under reduced pressure. The crude is purified by flash chromatography, eluting with ethyl acetate, to obtain 1.77 g of 5-(2-bromophenyl)-1-isobutyl-1H-imidazole-4-carboxylic acid ethyl ester. (Yield: 71%).

reactant | 3-bromo-3-(2-bromophenyl)-2-isocyano-acrylic acid ethyl ester | 7.11 mM, 2.55 g | C(C)OC(C(=C(C1=C(C=CC=C1)Br)Br)[N+]#[C-])=O | C12H9Br2NO2
reactant | triethylamine | 7.11 mM, 990 μl | C(C)N(CC)CC | C6H15N
reactant | isobutylamine | 8.53 mM, 850 μl | C(C(C)C)N | C4H11N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-(2-bromophenyl)-1-isobutyl-1H-imidazole-4-carboxylic acid ethyl ester | 1.77 g, Yield: 71% | C(C)OC(=O)C=1N=CN(C1C1=C(C=CC=C1)Br)CC(C)C | C16H19BrN2O2
